US06624121B1
3-Cyclopropyl-1-{3-[(4-cyclopropyl-4,5-dihydro-5-oxo-1H-tetrazol-1-yl)methyl]-2,4-dichlorophenyl}propan-1,3-dione (2.64 g) was dissolved in acetic anhydride (15 ml) and the solution, after adding triethyl orthoformate (2.12 g), was refluxed for 4 hours upon heating. The solvent was distilled off under reduced pressure and the residue was treated with toluene, which was distilled off under reduced pressure to obtain crude 3-cyclopropyl-1-{3-[(4-cyclopropyl-4,5-dihydro-5-oxo-1H-tetrazol-1-yl)methyl]-2,4-dichlorophenyl}-2-ethoxymethylenepropan-1,3-dione (3.23 g).

reactant | 3-Cyclopropyl-1-{3-[(4-cyclopropyl-4,5-dihydro-5-oxo-1H-tetrazol-1-yl)methyl]-2,4-dichlorophenyl}propan-1,3-dione | 2.64 g | C1(CC1)C(CC(=O)C1=C(C(=C(C=C1)Cl)CN1N=NN(C1=O)C1CC1)Cl)=O | C17H16Cl2N4O3
reactant | triethyl orthoformate | 2.12 g | C(OCC)(OCC)OCC | C7H16O3
solvent | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-cyclopropyl-1-{3-[(4-cyclopropyl-4,5-dihydro-5-oxo-1H-tetrazol-1-yl)methyl]-2,4-dichlorophenyl}-2-ethoxymethylenepropan-1,3-dione | 3.23 g | C1(CC1)C(C(C(=O)C1=C(C(=C(C=C1)Cl)CN1N=NN(C1=O)C1CC1)Cl)=COCC)=O | C20H20Cl2N4O4
